US04987132
A solution of 6.43 g of di-tert-butyl dicarbonate in 5 ml of THF was added to a mixture of 3.06 g of p-aminophenol and 30 ml of 10% aqueous solution of sodium hydroxide at room temperature. The mixture was stirred at 80° C. for 12 hours, then cooled and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=4:1) to give 4.35 g of p-(tert butoxycarbonylamino)phenol. A mixture of 300 mg of the thus-obtained compound, 210 mg of potassium carbonate and 10 ml of 2-butanone was stirred at room temperature for 30 minutes, then a solution of 310 mg of 1-bromo-4-phenylbutane in 5 ml of 2-butanone was added, and the mixture was stirred at 80° C. for 12 hours. After cooling, water was added to the reaction mixture, and the organic matter was extracted with ethyl acetate. The extract was washed in sequence with water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=10:1) to give 1-(tert-butoxycarbonylamino)-4-(4-phenylbutoxy)benzene (0.2 g). Trifluoroacetic acid (5 ml) was added to the compound obtained with ice cooling, and the mixture was stirred with ice cooling for 30 minutes. The reaction mixture was concentrated under reduced pressure, washed with saturated aqueous solution of sodium hydrogen carbonate and then with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 0.13 g of p-(4-phenylbutoxy)aniline.

reactant | di-tert-butyl dicarbonate | 6.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | p-aminophenol | 3.06 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | p-(tert butoxycarbonylamino)phenol | 4.35 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)O | C11H15NO3
